US07795444B2
Preparation of 2-(2-methoxyphenyl)-3-phenylpropanoic acid (14):
Methyl 2-(2-methoxyphenyl)-3-phenylpropanoate (4.433 g, 16 mmol, 1 eq) is dissolved in 100 mL of a 1:1 (v:v) mixture of THF and methanol. Sodium hydroxide (3.28 g, 82 mmol, 5 eq) is added and the reaction mixture is stirred 18 hours at room temperature. The reaction is then poured into H2O and the pH is adjusted to 2 via addition of 1N HCl. A white precipitate forms which is removed by filtration. The resulting solution is extracted with 3 portion of diethyl ether. The extracts are pooled, washed with H2O and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The resulting residue is purified over silica to afford 2.107 g (51%) of the desired compound. ESI− MS 255 (M−1), 211 (M−CO2H).

reactant | Methyl 2-(2-methoxyphenyl)-3-phenylpropanoate | 16 mmol, 4.433 g, 1 eq | COC1=C(C=CC=C1)C(C(=O)OC)CC1=CC=CC=C1 | C17H18O3
reactant | Sodium hydroxide | 82 mmol, 3.28 g, 5 eq | [OH-].[Na+]
reactant | H2O | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-(2-methoxyphenyl)-3-phenylpropanoic acid | 2.107 g, 51% | COC1=C(C=CC=C1)C(C(=O)O)CC1=CC=CC=C1 | C16H16O3
